US09145415B2
To a solution of N2-(3-fluorophenyl)-N4-propyl-5-((trimethylsilyl)ethynyl)pyrimidine-2,4-diamine (S1, 509 mg) in methanol (10 mL) and tetrahydrofuran (10 mL), potassium carbonate (246 mg) was added at room temperature, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture, ethyl acetate and saturated aqueous ammonium chloride were added. The organic layer was separated, washed successively with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 94 to 60% hexane in ethyl acetate) to obtain 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine (S2, 226 mg).

reactant | N2-(3-fluorophenyl)-N4-propyl-5-((trimethylsilyl)ethynyl)pyrimidine-2,4-diamine | 509 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C#C[Si](C)(C)C | C18H23FN4Si
reactant | potassium carbonate | 246 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-ethynyl-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine | 226 mg | C(#C)C=1C(=NC(=NC1)NC1=CC(=CC=C1)F)NCCC | C15H15FN4
